US04045469
Ethyl 2,2-Dimethylspiro[2.4]hepta-4,6-diene-1-carboxylate
A well stirred, 10°-15° C. nitrogen blanketed mixture of 10.6 g. of 6,6-dimethylfulvene, prepared above, and 12.2 g. of ethyl chloroacetate was treated dropwise over 1.5 hr. with a solution of 11.7 g. of potassium t-butoxide in 75 ml. of dry t-butyl alcohol. The reaction was stirred an additional 1.5 hr. at 10° C. and most of the alcohol was then removed at reduced pressure. Ether extraction of an aqueous solution of the residual semisolid afforded 15.2 g. of yellow oil. Subsequent distillation afforded 2.5 g. (13%) of yellow ester, b.p. 75°-80° C. (0.25 mm.). Gas chromatographically purified ester exhibited the following spectral properties: ir (film) 5.77, 8.33, 8.69, 9.24, 12.0, 12.7 μ; nmr (CCl4) τ 3.38, 3.69, 3.99 (3m, 4, --CH=CH--CH=CH--), 5.99 (q, 2, J = 7 Hz, OCH2CH3), 7.41 (s, 1, CHCO2Et), 8.47, 8.60 (6, CH3 's), 8.80 (t, 3, J = 7 Hz, OCH2CH3).

reactant | 6,6-dimethylfulvene | CC(=C1C=CC=C1)C | C8H10
reactant | ethyl chloroacetate | ClCC(=O)OCC | C4H7ClO2
reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
reactant | t-butyl alcohol | C(C)(C)(C)O | C4H10O
solvent | CCl4 | C(Cl)(Cl)(Cl)Cl | CCl4
product | Ethyl 2,2-Dimethylspiro[2.4]hepta-4,6-diene-1-carboxylate | CC1(C(C12C=CC=C2)C(=O)OCC)C | C12H16O2
